US09382237B2
Synthesis of 5-((4-hydroxybenzyl)amino)-3-((4-(4-methylphenylsulfonamido)phenyl)amino)-1H-pyrazole-4-carboxamide D136
3-((4-aminophenyl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide (150 mg) was dissolved in 25.00 mL of DMF along with TEA (211 μL, 2.50 eq.) and stirred on ice for 15 minutes. p-Toluenesulfonyl chloride (145 mg, 1.25 eq.) dissolved in 1 mL of DMF was slowly dripped into to the reaction vessel and continued to stir for 18 hrs allowing the reaction to reach room temperature. Once the reaction was complete, traces of starting material is no longer present and confirmed by HPLC, water was added to the reaction until a white precipitate formed. The white precipitate was then collected via filtration and dried under vacuum for 18 hrs (30 mg, 12% yield).

reactant | 3-((4-aminophenyl)amino)-5-((4-hydroxybenzyl)amino)-1H-pyrazole-4-carboxamide | 150 mg | NC1=CC=C(C=C1)NC1=NNC(=C1C(=O)N)NCC1=CC=C(C=C1)O | C17H18N6O2
reactant | p-Toluenesulfonyl chloride | 145 mg, 1.25 eq. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | DMF | 25.00 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-((4-hydroxybenzyl)amino)-3-((4-(4-methylphenylsulfonamido)phenyl)amino)-1H-pyrazole-4-carboxamide | 12% yield | OC1=CC=C(CNC2=C(C(=NN2)NC2=CC=C(C=C2)NS(=O)(=O)C2=CC=C(C=C2)C)C(=O)N)C=C1 | C24H24N6O4S
